US08466199B2
The reaction of ethyl 3-hydroxybenzoate and 3,3-dimethylallyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 3-(3-Methyl-but-2-enyloxy)-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.97 (br, —CO2H); 7.48 (m, 1 arom.H); 7.42 (m, 1 arom.H); 7.41 (m, 1 arom.H); 7.15 (m, 1 arom.H); 5.40 (m, CH═C(CH3)2); 4.54 (d-like, CH2CH═C(CH3)2); 1.69, 1.63 (2s, CH═C(CH3)2). 13C-NMR (100 MHz, d6-DMSO): 167.16 (C═O); 158.38; 137.32; 132.24; 129.59; 121.43; 119.68; 119.48; 114.67; 64.46; 25.40; 18.00.

reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | 3,3-dimethylallyl bromide | CC(=CCBr)C | C5H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 3-(3-Methyl-but-2-enyloxy)-benzoic acid | CC(=CCOC=1C=C(C(=O)O)C=CC1)C | C12H14O3
